US07655651B2
Biphenyl-4-carboxylic acid (4-chloro-3-{7-[4-(2-diethylamino-ethoxy)-phenylamino]-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl}-phenyl)-amide
0.1 g 4-(2-Diethylamino-ethoxy)-phenylamine were dissolved in 1 mL N-methylpyrrolidinone (NMP) and cooled to 0° C. 300 μl of a solution of aqueous HCl in diethyl ether were added and stirred for 45 min. Biphenyl-4-carboxylic acid [4-chloro-3-(7-methanesulfonyl-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-amide was dissolved in 2 ml NMP and added to the aforementioned solution and the reaction mixture was heated at 120° C. for 24 h. The reaction was quenched by addition of 5 mL of a saturated solution of sodium carbonate and the aqueous phase was extracted with dichloromethane. The organic phase was dried over sodium sulfate and the solvent was evaporated. The crude product was purified by flash chromatography on silica gel (dichloromethane/methanol) to give the title product in 35% yield.

reactant | 4-(2-Diethylamino-ethoxy)-phenylamine | 0.1 g | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
reactant | HCl | Cl | ClH
reactant | Biphenyl-4-carboxylic acid [4-chloro-3-(7-methanesulfonyl-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-amide | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C27H22ClN5O4S
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | NMP | 2 ml | CN1C(CCC1)=O | C5H9NO
product | Biphenyl-4-carboxylic acid (4-chloro-3-{7-[4-(2-diethylamino-ethoxy)-phenylamino]-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl}-phenyl)-amide | 35% yield | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C)=O | C38H38ClN7O3
